US07981883B2
8.b. Synthesis of 3-methoxyphenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid
A mixture of 3-(3-methoxyphenyl)-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester (51 g, 161 mmol) in MeOH (1000 ml) and lithium hydroxide monohydrate (18 g, 241 mmol) in H2O (145 ml) was stirred overnight at RT.

reactant | 3-(3-methoxyphenyl)-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester | 161 mmol, 51 g | C(C)OC(=O)C1CCC2(CC(=NO2)C2=CC(=CC=C2)OC)CC1 | C18H23NO4
reactant | lithium hydroxide monohydrate | 241 mmol, 18 g | O.[OH-].[Li+]
solvent | MeOH | 1000 ml | CO | CH4O
solvent | H2O | 145 ml | O | H2O
product | 3-methoxyphenyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid | COC=1C=C(C=CC1)C1=NOC2(C1)CCC(CC2)C(=O)O | C16H19NO4
